US06207671B1
5-(tert-Butyldimethylsilanyloxy)-2-cyclopentyl-4-(4-fluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinoline
1.46 g of diethylaminosulphur trifluoride dissolved in 10 ml of toluene were added dropwise at −5° C. to 3.8 g of [5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(4-fluorophenyl)-7,7-dimethyl-5,6,7, 8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanol dissolved in 37.8 ml of toluene. The reaction was quenched after 30 minutes using saturated aqueous sodium hydrogencarbonate solution and the organic phase was washed again using saturated aqueous sodium hydrogencarbonate solution and dried. After distilling off the solvent in vacuo, the residue was recrystallized from ethanol. A total of 3.33 g of colorless crystals having a purity of 99.4% according to HPLC resulted. By chromatography on silica gel, it was possible from the mother liquor of the crystallization, using petroleum ether/ethyl acetate 10:1, to obtain a further 0.26 g of the same quality.

reactant | diethylaminosulphur trifluoride | 1.46 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | [5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(4-fluorophenyl)-7,7-dimethyl-5,6,7, 8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanol | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(O)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)F | C36H45F4NO2Si
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 37.8 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(tert-Butyldimethylsilanyloxy)-2-cyclopentyl-4-(4-fluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinoline | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(C1=CC=C(C=C1)C(F)(F)F)F)C1=CC=C(C=C1)F | C36H44F5NOSi
